US08383644B2
(S)-2-({(S)-3-[4-(3-Chloro-4-methyl-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester hydrochloride (15 mg) was reacted with 2-acetylamino-4-methyl thiazole-5-sulfonyl chloride (11 mg) according to General Procedure E to give (S)-2-({(S)-7-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3-chloro-4-methyl-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)propionic acid methyl ester (11 mg), which was hydrolyzed according to General Procedures N and B to give the title compound (5 mg). LCMS: (m/z) 893.

reactant | (S)-2-({(S)-3-[4-(3-Chloro-4-methyl-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester hydrochloride | 15 mg | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)C)Cl)=O
reactant | 2-acetylamino-4-methyl thiazole-5-sulfonyl chloride | 11 mg | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
product | (S)-2-({(S)-7-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3-chloro-4-methyl-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)propionic acid methyl ester | 11 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)C)Cl)S(=O)(=O)C3=C(N=C(S3)NC(C)=O)C)=O | C49H44ClN5O9S2
